US07807709B2
(3S*,4R*)-3-{[Cyclopropyl-(2-methyl-2-methylcarbamoyl-propoxycarbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
HBTU (161 mg, 0.43 mmol) is added to a solution of (3S*,4R*)-3-{[(2-carboxy-2-methyl-propoxycarbonyl)-cyclopropyl-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (240 mg, 0.35 mmol) in CH3CN (10 mL) at 0° C. After 5 min a solution of methylamine (44 μL, 0.35 mmol, 8M in EtOH) and triethylamine (493 μL, 3.54 mmol) in CH3CN (10 mL) is added at 0° C. and the reaction solution is stirred at RT for 5 h. Another portion of methylamine (0.22 mL, 1.75 mmol) is added and stirring is continued for another 16 h. Then, triethylamine (247 μL, 1.77 mmol) and HBTU (268 mg, 1.02 mmol) are added and the reaction mixture is stirred at 50° C. for another 16 h. The solvent is evaporated and the crude product purified by HPLC (Interchrom C18 ODB 10 μm, 28×250 mm, eluent: CH3CN/H2O 5%/2.5 min, CH3CN/H2O 5-100%/23 min, 100% CH3CN/4.5 min, flow 40 mL/min) to give the title compound. MS (LC-MS): 691.4 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 5.38 min.

reactant | HBTU | 0.43 mmol, 161 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (3S*,4R*)-3-{[(2-carboxy-2-methyl-propoxycarbonyl)-cyclopropyl-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 240 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C1CC1)C(=O)OCC(C)(C)C(=O)O | C35H55N3O10
reactant | methylamine | 0.35 mmol, 8M, 44 μL | CN | CH5N
reactant | triethylamine | 3.54 mmol, 493 μL | C(C)N(CC)CC | C6H15N
reactant | methylamine | 1.75 mmol, 0.22 mL | CN | CH5N
reactant | triethylamine | 1.77 mmol, 247 μL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 1.02 mmol, 268 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | (3S*,4R*)-3-{[Cyclopropyl-(2-methyl-2-methylcarbamoyl-propoxycarbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(=O)OCC(C)(C(NC)=O)C)C1CC1 | C36H58N4O9
